US08084481B2
[2-(trifluoromethyl)phenyl]-glycine methyl ester hydrochloride
300 mg (1.37 mmol) of DL-[2-(trifluoromethyl)phenyl]-glycine are placed in 9 ml methanol and slowly treated at RT with 130 μl thionyl chloride. The solution is heated overnight under reflux, then cooled to RT and freed of the volatile components on the rotary evaporator. Since by LC/MS the residue still contains ca. 44% educt, it is reacted again under the conditions described above. After this, the conversion is complete. 371 mg (93% of theory) of the title compound are obtained.

reactant | [2-(trifluoromethyl)phenyl]-glycine | FC(C1=C(C=CC=C1)NCC(=O)O)(F)F | C9H8F3NO2
reactant | thionyl chloride | 130 μl | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 9 ml | CO | CH4O
product | [2-(trifluoromethyl)phenyl]-glycine methyl ester hydrochloride | Cl.COC(CNC1=C(C=CC=C1)C(F)(F)F)=O | InChI=1S/C10H10F3NO2.ClH/c1-16-9(15)6-14-8-5-3-2-4-7(8)10(11,12)13;/h2-5,14H,6H2,1H3;1H
